US07399759B2
2-[6-(Hydroxymethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one
A mixture of [6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl acetate (0.30 g, 1.00 mmol), potassium carbonate (0.004 g, 0.03 mmol) and methanol (30 ml) was stirred under nitrogen atmosphere at room temperature for 2 hrs. The reaction mixture was concentrated, dissolved in hot ethanol (10 ml) and filtered. The filtrate was concentrated under reduced pressure and the residue was recrystallized from ethanol to give the titled compound (0.19 g, 70%).

reactant | [6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl acetate | 1.00 mmol, 0.30 g | C(C)(=O)OCC1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C16H12N2O3S
reactant | potassium carbonate | 0.03 mmol, 0.004 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-[6-(Hydroxymethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.19 g, 70% | OCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H10N2O2S
